US05082847
Ethyl 4-piperidylcarbamate (2 g), from Preparation 4, and 5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril (2.54 g), from Preparation 5, were dissolved in ethanol (50 mL) and the resulting solution was heated under reflux for 6 hours and then cooled to room temperature. Concentrated hydrochloric acid (1 mL) was added. A white product precipitated, which was collected by filtration. The crude product was recrystallized from ethanol to yield 2.8 g (56.5%) of 3,4-dihydro-5-[2-hydroxy-3-(4-(ethoxycarbonylamino)-1-piperidyl)propoxy]carbostyril hydrochloride, m.p. 232°-234° C. (dec.).

reactant | Ethyl 4-piperidylcarbamate | 2 g | N1CCC(CC1)NC(OCC)=O | C8H16N2O2
reactant | 5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | 2.54 g | O1C(COC2=C3CCC(NC3=CC=C2)=O)C1 | C12H13NO3
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3,4-dihydro-5-[2-hydroxy-3-(4-(ethoxycarbonylamino)-1-piperidyl)propoxy]carbostyril hydrochloride | 2.8 g, 56.5% | Cl.OC(COC1=C2CCC(NC2=CC=C1)=O)CN1CCC(CC1)NC(=O)OCC | InChI=1S/C20H29N3O5.ClH/c1-2-27-20(26)21-14-8-10-23(11-9-14)12-15(24)13-28-18-5-3-4-17-16(18)6-7-19(25)22-17;/h3-5,14-15,24H,2,6-13H2,1H3,(H,21,26)(H,22,25);1H
